US06797718B2
(1R*,2R*)-N-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-2-phenylcyclopropanecarboxamide
Using the method of Examples 17-32, trans-2-phenylcyclopropylcarbonyl chloride was reacted with 1-[2-(2-aminoethoxy)ethyl]-2,6,7trimethyl1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The product was purified using Method B. The observed accurate mass was 408.2392.

reactant | trans-2-phenylcyclopropylcarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7trimethyl1H-imidazo[4,5-c]pyridin-4-amine | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
product | (1R*,2R*)-N-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-2-phenylcyclopropanecarboxamide | NC1=NC(=C(C2=C1N=C(N2CCOCCNC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)C)C)C | C23H29N5O2
